US06797718B2
A solution of of tert-butyl 2-{2-[(2,3-dimethyl-5-nitro-6-phenoxypyridin-4-yl)amino]ethoxy}ethylcarbamate (15.34 g, 34.35 mmol) in absolute ethanol (500 mL) was combined with 5% platinum on carbon (12.02 g) in a Parr vessel and placed under hydrogen pressure overnight. The reaction mixture was filtered through a layer of Celite® filter aid. The filtrate was concentrated under reduced pressure. The resulting residue was purified by column chromatography (250 g of silica gel eluting with 1/1 ethyl acetate/hexanes) to provide 11.21 g of tert-butyl 2-{2-[(3-amino-5,6-dimethyl-2-phenoxypyridin-4-yl)amino]ethoxy}ethylcarbamate.

reactant | tert-butyl 2-{2-[(2,3-dimethyl-5-nitro-6-phenoxypyridin-4-yl)amino]ethoxy}ethylcarbamate | 34.35 mmol, 15.34 g | CC1=NC(=C(C(=C1C)NCCOCCNC(OC(C)(C)C)=O)[N+](=O)[O-])OC1=CC=CC=C1 | C22H30N4O6
solvent | ethanol | 500 mL | C(C)O | C2H6O
catalyst | platinum on carbon | 12.02 g | [Pt] | Pt
product | tert-butyl 2-{2-[(3-amino-5,6-dimethyl-2-phenoxypyridin-4-yl)amino]ethoxy}ethylcarbamate | 11.21 g | NC=1C(=NC(=C(C1NCCOCCNC(OC(C)(C)C)=O)C)C)OC1=CC=CC=C1 | C22H32N4O4
